Name:  ___            Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Percocet
 
Attending: ___
 
Chief Complaint:
Acute on chronic left lower quadrant pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ G2P2 ___ s/p TVT and cysto presenting to ED with acute 
exacerbation of LLQ pain. Pt reports LLQ that predates surgery 
by 2 weeks. She states that initially tylenol and motrin were 
sufficient to resolve the pain. But yesterday, while she was 
doing nothing she had a severe 'wave' of sharp pain in the LLQ 
radiating to her lower back. She then had 2 episodes of emesis 
and continued dry heaving.

No fever, chills. Occasional night sweats. No chest pain, SOB. 
No vaginal discharge, dysuria. Normal BMs, no diarrhea, or 
constipation. No sick contacts.

Of note pt had a ED visit here on ___ with similar complaints 
and was found to have on CT a 1 x 2 cm rim enhancing possible 
abscess. She was started on Cipro/Flagyl PO and reports 
adherence. 
 
Past Medical History:
POBHx: G2P2: SVD ___

PGynHx: 
- LMP: current
- Remote h/o abnl Paps with normal f/u. Denies STIs. 
- TVT with cysto on ___ for SUI.

PAST MEDICAL HISTORY:
- GERD
- h/o Depression- not on meds currently
 
PAST SURGICAL HISTORY
- BTL ___
- TVT, cysto ___

Allergies: percocet
 
Social History:
___
Family History:
Non-contributory.
 
Physical Exam:
Physical Exam on Presentation:
Vitals:
 00:00  98.2 75 119/79 14 100%ra
 02:35  98.2 65 97/62 16 98% RA 
 06:51  97.7 68 106/71 14 98% RA 
General: NARD, appears mildly uncomfortable at times
CV: RRR
Lungs: CTAB
Abd: +BS, Soft, mildly tender to deep palpation in left lower 
quadrant, no rebound, no guarding

SSE: Parous cervix with heme discharge, normal appearing vagina, 
no lesions. No erythema or abnormal discharge Bimanual Exam: No 
CMT, no uterine tenderness, no adnexal tenderness or adnexal 
masses.
 
Pertinent Results:
___ 03:30PM   GLUCOSE-109* UREA N-16 CREAT-1.4* SODIUM-141 
POTASSIUM-4.1 CHLORIDE-109* TOTAL CO2-23 ANION GAP-13
___ 03:30PM   CALCIUM-8.7 PHOSPHATE-5.5* MAGNESIUM-2.0
___ 03:30PM   WBC-7.7 RBC-4.04* HGB-12.0 HCT-37.6 MCV-93 
MCH-29.7 MCHC-31.9 RDW-13.0
___ 03:30PM   PLT COUNT-302
___ 03:22PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 03:22PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG
___ 08:40AM   GLUCOSE-99 UREA N-19 CREAT-1.4* SODIUM-143 
POTASSIUM-3.5 CHLORIDE-109* TOTAL CO2-24 ANION GAP-14
___ 01:05AM   GLUCOSE-101* UREA N-20 CREAT-1.4* SODIUM-141 
POTASSIUM-4.0 CHLORIDE-107 TOTAL CO2-23 ANION GAP-15
___ 01:05AM   WBC-8.7# RBC-3.97* HGB-11.9* HCT-36.5 MCV-92 
MCH-30.1 MCHC-32.8 RDW-12.4
___ 01:05AM   NEUTS-73.4* LYMPHS-17.6* MONOS-6.8 EOS-1.8 
BASOS-0.4
___ 01:05AM   PLT COUNT-310
___ 12:50AM URINE  HOURS-RANDOM CREAT-40 SODIUM-91 
POTASSIUM-20 CHLORIDE-84
___ 12:50AM URINE  HOURS-RANDOM
___ 12:50AM URINE  UCG-NEG OSMOLAL-330
___ 12:50AM URINE  GR HOLD-HOLD
___ 12:50AM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 12:50AM URINE  BLOOD-TR NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG
___ 12:50AM URINE  RBC-1 WBC-1 BACTERIA-FEW YEAST-NONE 
EPI-1
___ 12:50AM URINE  MUCOUS-RARE
___ 12:50AM URINE  EOS-NEGATIVE  
 
Brief Hospital Course:
On ___, Ms. ___ was admitted to the Gynecology 
service for acute kidney injury (creatinine 1.4 from baseline of 
0.9) and management of her left lower quadrant pain. Though she 
was 14 days post-op from a tension-free vaginal tape and 
cystoscopy procedure, her pain preceded her procedure and there 
was low suspicion of a gynecologic source of her pain. She was 
afebrile on presentation and remained afebrile during her 
hospitalization. 

She underwent a renal ultrasound, which showed no evidence of 
nephrolithiasis or hydronephrosis. A CT scan of the abdomen and 
pelvis was also normal. As this CT scan did not show evidence of 
possible pelvic abscess that was seen on CT scan conducted six 
days prior and she did not have a leukocytosis or fevers, her 
antibiotics (ciprofloxacin and metronidazole) were discontinued. 
A pelvic ultrasound showed a left ovarian cyst, which was 
unchanged from a week prior. Her urinalysis showed evidence of a 
urinary tract infection and her post-void residual was negative 
for urinary retention. 

Her pain was managed with IV dilaudid and PO tylenol as needed, 
though she required minimal analgesics during her 
hospitalization. NSAIDS were held given her acute kidney injury. 
She was given IVF and had improvement in her creatinine (1.4 to 
1.2) during her two-day hospitalization. 

Given her negative workup, the etiology of her acute kidney 
injury was thought to be recent post-operative NSAID use, 
dehydration, recent antibiotic use, and/or the use of contrast 
on a CT performed at visit to emergency department six days 
prior to this admission. The etiology of her left lower quadrant 
pain was thought to be most likely related to constipation 
and/or her ovarian cyst, and improved significantly during her 
hospitalization with minimal analgesics.

She was discharged home in stable condition on hospital day two, 
with instructions to schedule follow up with her primary care 
physician for repeat labs, further evaluation of her pain, and a 
colonoscopy, as she has a strong family history of colon cancer. 
She was also instructed to avoid NSAID use.
 
Medications on Admission:
- Tylenol and motrin PRN
- Ciprofloxacin 
- Metronidazole
 
Discharge Medications:
- Docusate Sodium 100 mg PO BID 
- Acetaminophen ___ mg PO Q8H:PRN pain. Do not take >3000mg 
acetaminophen in 24h. 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Lower abdominal pain, possibly related to ovarian cyst or 
constipation
Acute kidney injury, likely ATN from NSAID use 
2 weeks post-op from suburethral sling/cystoscopy

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___,

You were admitted to the gynecology service for evaluation of 
worsening left lower abdominal pain and management of acute 
kidney injury. 

You underwent a renal ultrasound that was normal. You underwent 
a CT scan of your abdomen and pelvis that was normal. You also 
had a pelvic ultrasound that showed a small L ovarian cyst, that 
was stable from the week prior. Your urine test did not show any 
evidence of infection or retention. Your pain improved during 
your hospitalization and you did not require much pain 
medication. You remained afebrile with normal vital signs, 
overall clinically stable. We are reassured by your work-up that 
you do not have an intra-abdominal infection or complication 
related to your surgery. 

In regards to your kidney injury, this is most likely due to 
frequent NSAID (ibuprofen) use, though it can also be caused by 
IV contrast or antibiotics. Most of the time, the kidneys 
improve with time and hydration. Your creatinine (marker of 
kidney function) slightly improved during your hospitalization. 
We recommend you follow-up with your primary care doctor next 
week and get repeat labs. At home, please do not take any NSAIDs 
for now (i.e. motrin, aspirin, ibuprofen, aleve) and continue to 
stay hydrated.

You do not need to continue on antibiotics at home. You may take 
tylenol (up to 3000mg daily) as needed for pain.

As recommended by your primary care doctor, we recommend that 
you see a GI specialist for a possible colonoscopy, given your 
history of IBS and your family history of colon cancer. It is 
possible that your intermittent pain is related to your GI tract 
(ie IBS, constipation).

Please contact your PCP or Dr. ___ you develop any 
worsening or new signs or symptoms.  

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.  

 
Followup Instructions:
___